US06015868
Preparation of chloro(t-butylamino)dimethylsilane
Me2SiCl2 (151.50 g, 1.17 moles) was stirred in pentane (2 L) as N(C2H5)3 (119.62 g, 1.18 moles) was added slowly. t-Butylamine (85.85 g, 1.17 moles) in pentane (100 mL) was then added dropwise and the reaction allowed to stir at room temperature for 16 hours. After the reaction period the mixture was filtered and concentrated to 600 mL at which time more salts began to precipitate. The mixture was then refiltered and concentrated to 250 mL and then transferred to a 250 mL roundbottom flask equipped with a microdistillation apparatus and a thermometer. Distillation was performed until the reflux temperature reached 50° C. The clear, colorless liquid remaining was then determined to be pure by NMR and the yield to be essentially quantitative.

reactant | Me2SiCl2 | 1.17 moles, 151.50 g | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
reactant | N(C2H5)3 | 1.18 moles, 119.62 g | N(CC)(CC)CC | C6H15N
reactant | t-Butylamine | 1.17 moles, 85.85 g | C(C)(C)(C)N | C4H11N
solvent | pentane | 2 L | CCCCC | C5H12
solvent | pentane | 100 mL | CCCCC | C5H12
product | chloro(t-butylamino)dimethylsilane | Cl[Si](C)(C)NC(C)(C)C | C6H16ClNSi
